US07491733B2
Step 1: 2-chloromethylbenzothiazole (A)
Chloroacetyl chloride (81.6 ml) is added dropwise to a solution composed of 2-aminothiophenol (112 ml, 1.04 mol), dichloromethane (1.2 l) and three drops of dimethylformamide, while the temperature is kept below 40° C. After stirring for 18 hours, the precipitate formed is filtered off by suction and then dissolved in a minimum amount of water. This aqueous phase is extracted with pentane and the extracts are concentrated under vacuum at room temperature, giving 120 g (65%) of a flaky solid.

reactant | Chloroacetyl chloride | 81.6 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-aminothiophenol | 1.04 mol, 112 ml | NC1=C(C=CC=C1)S | C6H7NS
catalyst | dimethylformamide | three drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 1.2 l | ClCCl | CH2Cl2
product | 2-chloromethylbenzothiazole | 120 g, 65% | ClCC=1SC2=C(N1)C=CC=C2 | C8H6ClNS
